US07795249B2
A solution of (2E)-3-(2-hydroxyphenyl)-1-pyridin-3-ylprop-2-en-1-one (12.5 g, 55.6 mmol), hydrazine monohydrate (6.00 mL, 123 mmol), and ethanol (160 mL) was allowed to stir at 80° C. overnight. The reaction mixture was filtered over a pad of celite and washed with MeOH and DCM. The resulting filtrate was concentrated to give 2-(3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol (12.5 g, 94%) as a light grey solid. 1H NMR (400 MHz, d6-DMSO, HCl salt) δ: 9.52-9.67 (bs, 1H), 8.78 (s, 1H), 8.45-8.51 (m, 1H), 7.97 (d, 1H), 7.61 (s, 1H), 7.38 (t, 1H), 7.26 (d, 1H), 7.07 (t, 1H), 6.81 (d, 1H), 6.76 (t, 1H), 5.04 (t, 1H), 3.44 (dd, 1H), and 2.76 (dd, 1H). LCMS: (FA) ES+ 240.2, ES-238.5.

reactant | (2E)-3-(2-hydroxyphenyl)-1-pyridin-3-ylprop-2-en-1-one | 55.6 mmol, 12.5 g | OC1=C(C=CC=C1)/C=C/C(=O)C=1C=NC=CC1 | C14H11NO2
reactant | hydrazine monohydrate | 123 mmol, 6.00 mL | O.NN
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 2-(3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol | 12.5 g, 94% | N1=CC(=CC=C1)C1=NNC(C1)C1=C(C=CC=C1)O | C14H13N3O
